US06555700B1
1-(z,z,z-Octadeca-6,9,12-trienoyloxy)-3-(z-octadeca-9-enoyloxy)propane
(Diester of GLA and Oleic Acid with 1,3-Propane Diol).

reactant | Oleic Acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | 1,3-Propane Diol | C(CCO)O | C3H8O2
product | 1-(z,z,z-Octadeca-6,9,12-trienoyloxy)-3-(z-octadeca-9-enoyloxy)propane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOC(CCCCCCC\C=C/CCCCCCCC)=O | C39H68O4
